US05958968
q) Ethyl (E)-3-[1-n-butyl-5-(4-chloro-2-hydroxyphenyl)-1H-pyrazol-4-yl]-2-[(5-methoxy-2,3-dihydrobenzofuran-6-yl)methyl]-2-propenoate
To a solution of Ethyl (E)-3-[1-n-butyl-5-(4-chloro-2-methoxymethoxyphenyl)-1H-pyrazol-4-yl]-2-[(5-methoxy-2,3-dihydrobenzofuran-6-yl)methyl]-2-propenoate (4.50 g, 8.10 mmol) in EtOH (60 mL) was added 0.6 mL of conc. HCl. After heating at reflux for 3 h, the mixture was concentrated and then diluted with EtOAc. The resulting mixture was washed with 5% NaHCO3, brine and dried (Na2SO4). After removing the solvent, column chromatography of the residue with 25% EtOAc in hexane gave 2.65 g (64%) of the title compound as a solid: m.p. 158-160° C.; MS (ESI) m/z 511 (M+H)+ ; 1H NMR (400 MHz, CDCl3) d 7.58 (s, 1H), 7.47 (s, 1H), 7.02 (d, 1H), 6.78 (s, 1H), 6.62 (dd, 1H), 6.59 (d, 1H), 6.48 (s, 2H), 5.50 (bs, 1H), 4.48 (t, 2H), 4.12 (m, 2H), 3.85-3.95 (m, 4H), 3.83 (s, 3H), 3.81 (s, 3H), 3.16 (t, 2H), 1.67 (m, 2H), 1.20 (t, 3H), 1.17 (m, 2H), 0.80 (t, 3H).

reactant | Ethyl (E)-3-[1-n-butyl-5-(4-chloro-2-methoxymethoxyphenyl)-1H-pyrazol-4-yl]-2-[(5-methoxy-2,3-dihydrobenzofuran-6-yl)methyl]-2-propenoate | 8.10 mmol, 4.50 g | C(CCC)N1N=CC(=C1C1=C(C=C(C=C1)Cl)OCOC)/C=C(/C(=O)OCC)\CC1=CC2=C(CCO2)C=C1OC | C30H35ClN2O6
reactant | HCl | 0.6 mL | Cl | ClH
solvent | EtOH | 60 mL | CCO | C2H6O
product | Ethyl (E)-3-[1-n-butyl-5-(4-chloro-2-hydroxyphenyl)-1H-pyrazol-4-yl]-2-[(5-methoxy-2,3-dihydrobenzofuran-6-yl)methyl]-2-propenoate | 2.65 g, 64% | C(CCC)N1N=CC(=C1C1=C(C=C(C=C1)Cl)O)/C=C(/C(=O)OCC)\CC1=CC2=C(CCO2)C=C1OC | C28H31ClN2O5
